US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 μmol), 2-fluoro-4-methylaniline (65.9 mg, 526 μmol), BINAP (10.9 mg, 17.5 μmol), palladium (II) acetate (19.7 mg, 87.7 μmol) and sodium tert-butoxide (84.3 mg, 877 μmol) in DMF (1 mL) and toluene (500 μL) was heated in a microwave at 140° C. for 20 min. The reaction mixture was diluted with water then extracted into ethyl acetate (3×). The combined organic extracts were washed with brine then dried over magnesium sulfate. Purification by chromatography (silica, 20-50% ethyl acetate/hexanes) gave N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (87 mg, 184 μmol, 53%) as an off-white solid. MS (EI/CI) m/z: 470.1 [M−H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 μmol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 2-fluoro-4-methylaniline | 526 μmol, 65.9 mg | FC1=C(N)C=CC(=C1)C | C7H8FN
reactant | sodium tert-butoxide | 877 μmol, 84.3 mg | CC(C)([O-])C.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium (II) acetate | 87.7 μmol, 19.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 17.5 μmol, 10.9 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | N-tert-butyl-2-(2-fluoro-4-methylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 184 μmol, 87 mg, 53% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=C(C=C(C=C2)C)F)COCC[Si](C)(C)C | C24H34FN5O2Si
